US03950381
The procedure is as described in Example 1, except that 54 g of sodium methylate in 600 ml dimethylcarbonate are used and 154.5 g of p-chloro-acetophenone are added dropwise over a period of 2.5 hours at 60°C. Working up in accordance with Example 1 gives at 60°C 187 g (87% of the theoretical amount) of p-chloro-benzoylacetic acid methyl ester with a boiling point of 113°C/0.3 torr.

reactant | sodium methylate | 54 g | C[O-].[Na+]
reactant | p-chloro-acetophenone | 154.5 g | ClC1=CC=C(C=C1)C(C)=O | C8H7ClO
reactant | dimethylcarbonate | 600 ml | COC(OC)=O | C3H6O3
product | p-chloro-benzoylacetic acid methyl ester | COC(CC(C1=CC=C(C=C1)Cl)=O)=O | C10H9ClO3
